US04564612
In 2 ml of methanol are dissolved 0.1 g of 3(R)-[1(S)-ethoxycarbonyl-3-cyclohexylpropyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid hydrochloride and 1.5 ml of 1N aqueous sodium hydroxide. The solution is allowed to stand at room temperature for 2 hours, concentrated to about 1 ml at a temperature of not higher than 40° C. under reduced pressure, and acidified slightly with 1N hydrochloric acid to give 0.067 g of 3(R)-[1(S)-carboxy-3-cyclohexylpropyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid as colorless prisms, m.p. 207°-210° C.

reactant | 3(R)-[1(S)-ethoxycarbonyl-3-cyclohexylpropyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid hydrochloride | 0.1 g | Cl.C(C)OC(=O)[C@H](CCC1CCCCC1)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2
reactant | sodium hydroxide | 1N, 1.5 ml | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 3(R)-[1(S)-carboxy-3-cyclohexylpropyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid | 0.067 g | C(=O)(O)[C@H](CCC1CCCCC1)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C21H28N2O5S
